US04661607
A mixture of 3-hydroxy-2-methyl-9-oxo-9H-xanthene (1.8 g), potassium carbonate (2.2 g), ethyl bromoacetate (2.7 g) and DMF (40 ml) was stirred at 60°-70° C. for 2 hours. After cooling the mixture, sodium hydroxide (3.2 g) and water (40 ml) were added and the resulting mixture was stirred at 90°-100° C. for 1 hour. After cooling, the mixture was rendered acidic with hydrochloric acid and the solid crystal was recovered by filtration, washed with water and dried. Recrystallization from ethanol gave 1.8 g of 2-methyl-9-oxo-9H-xanthene-3-yloxyacetic acid. m.p. 236°-238° C. This compound showed a mass spectrum having a molecular ion peak at m/e 284.

reactant | 3-hydroxy-2-methyl-9-oxo-9H-xanthene | 1.8 g | OC=1C(=CC=2C(C3=CC=CC=C3OC2C1)=O)C | C14H10O3
reactant | potassium carbonate | 2.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 2.7 g | BrCC(=O)OCC | C4H7BrO2
reactant | sodium hydroxide | 3.2 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 40 ml | O | H2O
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 2-methyl-9-oxo-9H-xanthene-3-yloxyacetic acid | 1.8 g | CC(C(=O)O)OC=1C=CC=2C(C3=CC=CC=C3OC2C1)=O | C16H12O5
